US06323343B1
A 50 ml 3-necked round bottom flask was fitted with a pressure equalised dropping funnel, bubbler and magnetic stirrer. 8-(2,2-Difluoroethyl)-8-azabicyclo[3.2.1]octan-3-one (4.82 g, 25 mmol) was charged to the reaction flask and suspended in water (5 ml). Hydrochloric acid (5 ml, 5M) was added followed by solid ammonium chloride (2.23 g, 41 mmol) and the mixture stirred until the ammonium chloride had dissolved (5 minutes). The mixture was cooled to 5° C., a solution of potassium cyanide (5.03 g, 65 mmol) in water (7.5 ml) was added over 0.25 hour then the reaction was stirred at 0° C. for 3 hour. After this time, the lower oil phase was separated from the solid precipitate/aqueous phase to give 3-cyano-3-hydroxy-8-(2,2-difluoroethyl)-8-azabicyclo[3.2.1]octane as an oil which darkened on standing (5.32 g). The product was used directly in the next step.

reactant | 8-(2,2-Difluoroethyl)-8-azabicyclo[3.2.1]octan-3-one | 25 mmol, 4.82 g | FC(CN1C2CC(CC1CC2)=O)F | C9H13F2NO
reactant | Hydrochloric acid | 5M, 5 ml | Cl | ClH
reactant | ammonium chloride | 41 mmol, 2.23 g | [Cl-].[NH4+]
reactant | potassium cyanide | 65 mmol, 5.03 g | [C-]#N.[K+]
solvent | water | 5 ml | O | H2O
solvent | water | 7.5 ml | O | H2O
product | 3-cyano-3-hydroxy-8-(2,2-difluoroethyl)-8-azabicyclo[3.2.1]octane | C(#N)C1(CC2CCC(C1)N2CC(F)F)O | C10H14F2N2O
